US06667320B2
4-Fluoro-heptane-1,7-diol
Methanol (15 ml) saturated with anhydrous NH3 gas was added to acetic acid, 7-acetoxy-4-fluoro-heptyl ester (500 mg, 2.13 mg) contained in round-bottomed flask closed by glass stopper. The mixture was allowed to stir for over 28 hours at room temperature and then concentrated. Purification of the residue by column chromatography on silica gel, using 5% methanol in CH2Cl2, gave the title compound (320 mg, 100%) as pure colorless oil. 1H NMR (CDCl3) δ 1.59-1.83 (m, 8H), 3.67 (t, 4H, J=5.7 Hz), 4.47-4.67 (m, 1H); 13C NMR (CDCl3) δ 28.73, 28.75, 31.78, 32.06, 62.88, 93.56, 95.98; ES-MS m/z 173.2 (M+Na).

reactant | NH3 | N | H3N
reactant | acetic acid, 7-acetoxy-4-fluoro-heptyl ester | 500 mg | C(C)(=O)OCCCC(CCCOC(C)=O)F | C11H19FO4
solvent | Methanol | 15 ml | CO | CH4O
product | 4-Fluoro-heptane-1,7-diol | 320 mg, 100% | FC(CCCO)CCCO | C7H15FO2
